US06462036B1
A mixture of 4-(1,4-dihydroindeno[1,2-c]pyrazol-3-yl)benzoic acid (1.05 g) and dry tetrahydrofuran (30 ml) was stirred at ambient temperature whilst triethylamine (1.1 ml) was added. The mixture was stirred at ambient temperature for 0.5 h then cooled to 3° C. and methyl chloroformate (1.2 ml) was added dropwise over 5 to 10 minutes at 3-9° C. The mixture was stirred for 1 hour at 3-9° C. and then added to concentrated aqueous ammonia solution (70 ml, SG 0.880) with rapid stirring. The mixture was stirred for 2 hours at 5° C. and allowed to warm up to ambient temperature. The mixture was concentrated under reduced pressure and then treated with 1M sodium hydroxide solution (200 ml). The mixture was stirred for 0.5 hour and then filtered. The solid obtained was stirred with 2M sodium hydroxide solution (50 ml) for 6 hours and then allowed to stand at ambient temperature for 18 hours. The mixture was filtered to give a solid which was washed with water and dried. This solid was purified by flash column chromatography on silica using dichloromethane/industrial methylated spirit/triethylamine (25:2.5:1.5) as the mobile phase. The appropriate fractions were combined and concentrated to give a residue which was washed with water and dried under vacuum at 40° C. to give 4-(1,4-dihydroindeno[1,2-c]pyrazol-3-yl)benzamide, m.p. 290-293° C.

reactant | 4-(1,4-dihydroindeno[1,2-c]pyrazol-3-yl)benzoic acid | 1.05 g | N1N=C(C2=C1C1=CC=CC=C1C2)C2=CC=C(C(=O)O)C=C2 | C17H12N2O2
reactant | methyl chloroformate | 1.2 ml | ClC(=O)OC | C2H3ClO2
reactant | ammonia | 70 ml | N | H3N
reactant | sodium hydroxide | 2M, 50 ml | [OH-].[Na+]
solvent | triethylamine | 1.1 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-(1,4-dihydroindeno[1,2-c]pyrazol-3-yl)benzamide | N1N=C(C2=C1C1=CC=CC=C1C2)C2=CC=C(C(=O)N)C=C2 | C17H13N3O
